data/nitro/train.csv
rxn,smiles,ea
209,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[C:11]([H:12])([H:13])[H:14])[Cl:15])(\[Cl:16])[C:17]([H:18])([H:19])[H:20]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[C:11]([H:12])([H:13])[H:14])[Cl:15])([Cl:16])[C:17]([H:18])([H:19])[H:20],-9.194619590744727
741,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[Br:24])([c:25]1[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]1[H:35])[c:36]1[c:37]([H:38])[c:39]([H:40])[c:41]([H:42])[c:43]([H:44])[c:45]1[H:46]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[Br:24])([c:25]1[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]1[H:35])[c:36]1[c:37]([H:38])[c:39]([H:40])[c:41]([H:42])[c:43]([H:44])[c:45]1[H:46],-3.6925286713680254
346,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])(\[Cl:23])[c:24]1[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]1[H:34]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])([Cl:23])[c:24]1[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]1[H:34],-8.11062834996998
422,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Br:20])(\[Br:21])[C:22]([H:23])([H:24])[H:25]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Br:20])([Br:21])[C:22]([H:23])([H:24])[H:25],-2.078706080771873
775,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[Cl:16])(\[c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27])[H:28]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[Cl:16])([c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27])[H:28],-11.4883336356696
265,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[C:11]([H:12])([H:13])[H:14])[c:15]1[c:16]([H:17])[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]1[H:25])([Cl:26])[Cl:27]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[C:11]([H:12])([H:13])[H:14])[c:15]1[c:16]([H:17])[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]1[H:25])([Cl:26])[Cl:27],-6.136464719385954
956,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[H:17])(\[H:18])[c:19]1[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]([H:27])[c:28]1[H:29]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[H:17])([H:18])[c:19]1[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]([H:27])[c:28]1[H:29],-3.239616178530018
A3,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[C:20]([H:21])([H:22])[C:23]([H:24])([H:25])[H:26])[H:27])([H:28])[H:29]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[C:20]([H:21])([H:22])[C:23]([H:24])([H:25])[H:26])[H:27])([H:28])[H:29],-11.584063971120976
759,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[H:16])([c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27])[c:28]1[c:29]([H:30])[c:31]([H:32])[c:33]([H:34])[c:35]([H:36])[c:37]1[H:38]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[H:16])([c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27])[c:28]1[c:29]([H:30])[c:31]([H:32])[c:33]([H:34])[c:35]([H:36])[c:37]1[H:38],-3.867198443629104
383,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[Br:16])(\[Cl:17])[H:18]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[Br:16])([Cl:17])[H:18],-14.637335563531847
33,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[C:11]([H:12])([H:13])[H:14])[H:15])([C:16]([H:17])([H:18])[H:19])[C:20]([H:21])([H:22])[H:23]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[C:11]([H:12])([H:13])[H:14])[H:15])([C:16]([H:17])([H:18])[H:19])[C:20]([H:21])([H:22])[H:23],-6.459367289556299
